US07402595B2
2-(3,5-dimethoxybenzyl)-1-oxo-4-phenyl-1,2-dihydroisoquinoline-3-carboxylic acid methyl ester
To a solution of 6-bromo-2-(3,5-dimethoxybenzyl)-1-oxo-4-phenyl-1,2-dihydroisoquinoline-3-carboxylic acid methyl ester (153 mg) in methanol (5 ml) was added palladium carbon (10%, 15 mg), and hydrogen gas was filled. The mixture was stirred at room temperature for 15 hrs. and filtered through celite. The solvent was evaporated under reduced pressure, and the obtained residue was recrystallized from methanol to give the title compound (113 mg, 88%).

reactant | 6-bromo-2-(3,5-dimethoxybenzyl)-1-oxo-4-phenyl-1,2-dihydroisoquinoline-3-carboxylic acid methyl ester | 153 mg | COC(=O)C=1N(C(C2=CC=C(C=C2C1C1=CC=CC=C1)Br)=O)CC1=CC(=CC(=C1)OC)OC | C26H22BrNO5
reactant | hydrogen | [H][H] | H2
solvent | methanol | 5 ml | CO | CH4O
catalyst | palladium carbon | 15 mg | [C].[Pd]
product | 2-(3,5-dimethoxybenzyl)-1-oxo-4-phenyl-1,2-dihydroisoquinoline-3-carboxylic acid methyl ester | 113 mg, 88% | COC(=O)C=1N(C(C2=CC=CC=C2C1C1=CC=CC=C1)=O)CC1=CC(=CC(=C1)OC)OC | C26H23NO5
